US07122666B2
9(v)′ (8aS)-8-Methyl-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one
1.79 g (47.1 mmol) of lithium aluminum hydride were added in several portions to a stirred, ice-cooled solution of 3.67 g (15.7 mmol) of (8aS)-8-methyl-7-(1-pyrrolidinyl)-1,2,3,5,8,8a-hexahydroindolizin-5-one [obtained as described in Preparative Example 9(iv)′ above] in 50 ml of tetrahydrofuran and the resulting mixture was stirred at room temperature overnight. At the end of this time, 7.22 ml of a 1N aqueous solution of sodium hydroxide were added followed by the addition of ethanol, and any insoluble material was then filtered off. The filtrate thus obtained was concentrated by evaporation under reduced pressure, and the resulting residue was purified by chromatography on an alumina column using ethyl acetate as the eluant to afford 1.69 g (yield: 70%) of the title compound as a pale yellow oil.

reactant | lithium aluminum hydride | 47.1 mmol, 1.79 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (8aS)-8-methyl-7-(1-pyrrolidinyl)-1,2,3,5,8,8a-hexahydroindolizin-5-one | 15.7 mmol, 3.67 g | CC1C(=CC(N2CCC[C@@H]12)=O)N1CCCC1 | C13H20N2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (8aS)-8-Methyl-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one | 1.69 g, yield: 70% | CC1C(CCN2CCC[C@@H]12)=O | C9H15NO
